US07846959B2
A solution of 2-[(4-amino-3-nitrophenyl)carbonyl]benzoic acid (10 g, 35 mmol) in DMF (50 mL) was treated with cesium carbonate (23 g, 70 mmol) followed by iodomethane (2.2 mL, 35 mmol). The mixture was stirred at rt for 1 h, after which time 50 mL of water was added. A yellow precipitate formed. The solid was collected by filtration, rinsed with water, and dried in vacuo. Desired methyl 2-[(4-amino-3-nitrophenyl)carbonyl]benzoate was obtained as a yellow solid (8.36 g, 27.8 mmol, 80% yield). 1H NMR (400 MHz, d6-DMSO): 8.12 (br s, 2H), 8.10 (d, 1H), 7.78-7.75 (m, 2H), 7.70 (m, 1H), 7.48 (dd, 1H), 7.10 (d, 1H), 3.64 (s, 3H); MS (EI) for C15H12N2O5: 323 (MNa+).

reactant | 2-[(4-amino-3-nitrophenyl)carbonyl]benzoic acid | 35 mmol, 10 g | NC1=C(C=C(C=C1)C(=O)C1=C(C(=O)O)C=CC=C1)[N+](=O)[O-] | C14H10N2O5
reactant | cesium carbonate | 70 mmol, 23 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 35 mmol, 2.2 mL | IC | CH3I
reactant | water | 50 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | methyl 2-[(4-amino-3-nitrophenyl)carbonyl]benzoate | NC1=C(C=C(C=C1)C(=O)C1=C(C(=O)OC)C=CC=C1)[N+](=O)[O-] | C15H12N2O5
